US07582761B2
(a) 2-Piperazin-1-yl-pyridine-3-sulfonic acid methylamide
A mixture of 2-chloro-N-methyl-3-pyridinesulfonamide (1 g, 4.8 mmol, Specs), piperazine (0.43 g, 5 mmol) and N,N-diisopropylethylamine (1 mL, 5.8 mmol, Aldrich) was reacted under the conditions of Example 41a to give the title compound as a white amorphous solid. MS (ESI, pos. ion) m/z: 257 (M+1).

reactant | 2-chloro-N-methyl-3-pyridinesulfonamide | 4.8 mmol, 1 g | ClC1=NC=CC=C1S(=O)(=O)NC | C6H7ClN2O2S
reactant | piperazine | 5 mmol, 0.43 g | N1CCNCC1 | C4H10N2
reactant | N,N-diisopropylethylamine | 5.8 mmol, 1 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | 2-Piperazin-1-yl-pyridine-3-sulfonic acid methylamide | CNS(=O)(=O)C=1C(=NC=CC1)N1CCNCC1 | C10H16N4O2S
